US05731306
Step c: 2-(Bis-methylsulfanyl-methyleneamino)-1-(10,10-dimethyl-3,3-dioxo-3-thia-4-aza-tricyclo[5.2.1.0 1,5]dec-4-yl)-3-(2-vinyl-phenyl)-propan-1-one
Dissolve 2-(bis-methylsulfanyl-methyleneamino)-1-(10,10-dimethyl-3,3-dioxo-3-thia-4-aza-tricyclo[5.2.1.0 1,5]dec-4-yl)-ethanone (7.91 g, 21.0 mmol) in tetrahydrofuran (100 mL) and cool to -78° C. Treat, by dropwise addition, with 1.6M n-butyllithium in hexane (13.1 mL, 21 mmol). Stir for 1.5 hours, then add hexamethylphosphotriamide (HMPA) (4.25 mL, 24.4 mmol). Stir for 15 minutes and add, via cannula, a solution of 1-iodomethyl-2-vinyl-benzene (6.1 g, 25 mmol) in tetrahydrofuran (100 mL). Stir overnight at room temperature, partition between saturated ammonium chloride (2×75 mL) and ethyl acetate (400 mL). Dry (Na2 SO4) and purify by silica gel chromatography (2.5:1 hexane/ethyl acetate) to give the title compound as a white solid (4.5 g).

reactant | 2-(bis-methylsulfanyl-methyleneamino)-1-(10,10-dimethyl-3,3-dioxo-3-thia-4-aza-tricyclo[5.2.1.0 1,5]dec-4-yl)-ethanone | 21.0 mmol, 7.91 g | CSC(=NCC(=O)N1S(CC23C1CC(CC2)C3(C)C)(=O)=O)SC | C15H24N2O3S3
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | hexane | 21 mmol, 13.1 mL | CCCCCC | C6H14
reactant | hexamethylphosphotriamide | 24.4 mmol, 4.25 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | 1-iodomethyl-2-vinyl-benzene | 25 mmol, 6.1 g | ICC1=C(C=CC=C1)C=C | C9H9I
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(Bis-methylsulfanyl-methyleneamino)-1-(10,10-dimethyl-3,3-dioxo-3-thia-4-aza-tricyclo[5.2.1.0 1,5]dec-4-yl)-3-(2-vinyl-phenyl)-propan-1-one | 4.5 g | CSC(=NC(C(=O)N1S(CC23C1CC(CC2)C3(C)C)(=O)=O)CC3=C(C=CC=C3)C=C)SC | C24H32N2O3S3
